US09120728B2
N-[2-(3-fluoro-5-methylsulfonyl-phenoxy)ethyl]-2-methyl-butan-2-amine
Preparation according to Example 1 but performed in one portion: 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene (0.5 g, 1.68 mmol) and tert-amylamine (1.61 ml, 13.46 mmol) in ethanol (5 ml). Purification by flash column chromatography (ethyl acetate/methanol, 100:0 to 85:15) gave the title compound (389 mg, 76.2%). The amine was converted to the hydrochloric acid salt and re-crystallized from methanol/diethyl ether: M.p. 190.2° C. MS m/z (relative intensity, 70 eV) 303 (M+, 0), 288 (21), 276 (10), 275 (41), 274 (bp), 84 (10).

reactant | 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene | 1.68 mmol, 0.5 g | BrCCOC1=CC(=CC(=C1)S(=O)(=O)C)F | C9H10BrFO3S
reactant | tert-amylamine | 13.46 mmol, 1.61 ml | C(C)(C)(CC)N | C5H13N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[2-(3-fluoro-5-methylsulfonyl-phenoxy)ethyl]-2-methyl-butan-2-amine | 389 mg, 76.2% | FC=1C=C(OCCNC(C)(CC)C)C=C(C1)S(=O)(=O)C | C14H22FNO3S
